US08865726B2
To the solid (S)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(5-fluoropyridin-2-yl)oxazolidin-2-one (5.8 g, 9.8 mmol) was added TFA (40 mL) and the reaction stirred at ambient temperature for 2 hours. The reaction was concentrated in vacuo and the residue was dissolved in acetonitrile/methanol (1:1, 70 mL). Water (30 mL) was added and the mixture was stirred at ambient temperature for 3 hours. The aqueous layer was made basic with NaHCO3 (saturated solution) and the organic layer was removed in vacuo. The solid that formed was filtered and dried in vacuo. The solid was taken up in acetone (100 mL) and water added (500 mL) slowly. After complete addition, the slurry was stirred for 1 hour at ambient temperature. The slurry was filtered and the solid dried in vacuo for 36 hours to yield (S)-3-(3-(3-fluoro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(5-fluoropyridin-2-yl)oxazolidin-2-one (3.4 g, 7.4 mmol, 75% yield). LCMS (APCI+) m/z 461 [M+H]+.

reactant | (S)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(5-fluoropyridin-2-yl)oxazolidin-2-one | 9.8 mmol, 5.8 g | FC=1C=C(C=CC1C1=NN(C=N1)COCC[Si](C)(C)C)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=NC=C(C=C2)F)=O | C28H28F2N8O3Si
solvent | TFA | 40 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (S)-3-(3-(3-fluoro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(5-fluoropyridin-2-yl)oxazolidin-2-one | 7.4 mmol, 3.4 g, 75% yield | FC=1C=C(C=CC1C1=NNC=N1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=NC=C(C=C2)F)=O | C22H14F2N8O2
